US04816452
a. (Z)-2-Hydroxyimino-2-(2-tritylaminothiazol-4-yl) acetic acid
Ethyl (Z)-2-hydroxyimino-2-(2-tritylaminothiazol-4-yl)acetate hydrochloride (5 g) as a suspension in dioxane (50ml) was treated at room temperature with 1M aqueous sodium hydroxide (23 ml). After stirring for 12 h, water (50 ml) was added. The pH was adjusted to 1-2 with dilute hydrochloric acid. The resulting precipitate was filtered off, washed with water and dried over P2O5 to give the title compound (4.2 g) as a white solid; δH ((CD3)2SO) 6.73 (1H, s), 7.30 (15H, s).

reactant | Ethyl (Z)-2-hydroxyimino-2-(2-tritylaminothiazol-4-yl)acetate hydrochloride | 5 g | Cl.O\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydroxide | 1M, 23 ml | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 50ml | O1CCOCC1 | C4H8O2
product | (Z)-2-Hydroxyimino-2-(2-tritylaminothiazol-4-yl) acetic acid | 4.2 g | O\N=C(/C(=O)O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H19N3O3S
